# CMOS inverter chain

.options maxdelta = 2.
.analysis dc device=vdc:vin param=vdc start=0 stop=3V verbose=0 sweep_num=100

vdc:vdd 1 gnd vdc=3V 
vdc:vin in gnd 

x1 in o1 1 gnd inverter
x2 o1 o2 1 gnd inverter
x3 o2 out 1 gnd inverter

.subckt inverter in out 1 gnd
mosekv:m1 out in 1 1 type = p
mosekv:m2 out in gnd gnd type = n
.ends

.plot dc o1 o2 out

.end


