# CMOS inverter chain

.options maxdelta = 2.
#.analysis dc device=vsin:vin param=vdc start=0 stop=3V verbose=0 num=100
.analysis tran tstop=30n tstep=.1n im=trap verbose=0

vdc:vdd 1 gnd vdc=3V 
vsin:vin in gnd vdc=1 mag=1. freq=100MEGHz phase=120

x1 in o1 1 gnd inverter
x2 o1 o2 1 gnd inverter
x3 o2 out 1 gnd inverter
cap:cload out gnd c=20fF

.subckt inverter in out 1 gnd
mosekv:m1 out in 1 1 type = p
mosekv:m2 out in gnd gnd type = n
.ends

#.plot dc o1 o2 out
.plot tran in o1 o2 out

.end


